US06395733B1
(1H-Indol-5-yl)pyrido[3,4-d]pyrimidin-4-yl-amine
This product was prepared in 15% yield from 5-aminoindole (1.1 eq.) and 4-chloropyrido[3,4-d]pyrimidine (1 eq.). MP 265° C.; LC-MS: 262 (MH+).

reactant | 5-aminoindole | 1.1 eq. | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 4-chloropyrido[3,4-d]pyrimidine | 1 eq. | ClC=1C2=C(N=CN1)C=NC=C2 | C7H4ClN3
product | (1H-Indol-5-yl)pyrido[3,4-d]pyrimidin-4-yl-amine | 15% yield | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC=C2 | C15H11N5
